US08283353B2
N-[4-(prop-2-en-1-yloxy)cyclohexyl]-4H-1,2,4-triazol-3-amine
To a solution (100 mL) of 1H-1,2,4-triazol-3-amine (2.4 g) and 4-(prop-2-en-1-yloxy)cyclohexanone (5.3 g) in acetic acid was added sodium cyanoborohydride (9.1 g), and the mixture was stirred at room temperature for 16 hr. Water was added to the reaction mixture, and the solvent was evaporated under reduced pressure. The obtained residue was poured into saturated aqueous sodium hydrogen carbonate, and the mixture was extracted with a mixed solvent of ethyl acetate and isopropyl alcohol (3:1). The obtained extract was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained reaction mixture was purified by silica gel column chromatography to give the title compound as a colorless solid (3.2 g, 50%).

reactant | 1H-1,2,4-triazol-3-amine | 100 mL, 2.4 g | N1N=C(N=C1)N | C2H4N4
reactant | 4-(prop-2-en-1-yloxy)cyclohexanone | 5.3 g | C(C=C)OC1CCC(CC1)=O | C9H14O2
reactant | sodium cyanoborohydride | 9.1 g | C(#N)[BH3-].[Na+]
reactant | Water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-[4-(prop-2-en-1-yloxy)cyclohexyl]-4H-1,2,4-triazol-3-amine | 3.2 g, 50% | C(C=C)OC1CCC(CC1)NC1=NN=CN1 | C11H18N4O
